US06002008
4-[(3-Bromo-4-fluorophenyl)amino]-6-nitro-3-quinolinecarbonitrile
A mixture of 3.8 g (16.33 mmol) of 4-chloro-6-nitro-3-quinolinecarbonitrile and 3.7 g (20 mmol) of 3-bromo-4-fluoroaniline in 200 mL of ethanol was refluxed for 3hr. After the solvent was removed, the residue as dissolved in ethyl acetate and washed with sodium bicarbonate. The product was collected as a pale yellow solid, 6.5 g (71%); ESMS m/z 387.3, 389.2, mp 269-270° C. (dec).

reactant | 4-chloro-6-nitro-3-quinolinecarbonitrile | 16.33 mmol, 3.8 g | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | 3-bromo-4-fluoroaniline | 20 mmol, 3.7 g | BrC=1C=C(N)C=CC1F | C6H5BrFN
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-[(3-Bromo-4-fluorophenyl)amino]-6-nitro-3-quinolinecarbonitrile | BrC=1C=C(C=CC1F)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C16H8BrFN4O2
